US07838499B2
Preparation of (2S,3R,4S,5S,6R)-2-(4-chloro-3-(4-(2-cyclopropoxyethoxy)benzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol (Intermediate DL)
To a stirred solution of 4-bromo-1-chloro-2-(4-(2-cyclopropoxyethoxy)benzyl)benzene (213 g) in anhydrous THF/toluene (1:2 v/v, 1.7 L) under argon was added n-BuLi (2.5 M in hexane, 245.9 mL) dropwise at −60±5° C. The mixture was stirred for 30 min, and then transferred to a stirred solution of (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one (310.5 g) in toluene (1.6 L) at −60±5° C. The reaction mixture was continuously stirred at −60±5° C. for 1 h before quenching with an aqueous solution of saturated ammonium chloride (1.5 L). The mixture was allowed to warm to room temperature and stirred for 1 h. The organic layer was separated and the water layer was extracted with ethyl acetate (3×500 mL). The combined organic layers were washed with brine (1 L), dried over Na2SO4, and concentrated. The residue was dissolved in methanol (450 mL), and methanesulfonic acid (9.2 mL) was added at 0° C. The solution was allowed to warm to room temperature and stirred for 20 h. The reaction was quenched with an aqueous solution of sodium bicarbonate (50 g) in water (500 mL) and then additional water (900 mL) was added. The mixture was extracted with ethyl acetate (3×1.0 L). The combined organic layers were washed with brine, dried over Na2SO4, and concentrated. The crude product was used in the next step without further purification.

reactant | 4-bromo-1-chloro-2-(4-(2-cyclopropoxyethoxy)benzyl)benzene | 213 g | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)OCCOC1CC1 | C18H18BrClO2
reactant | n-BuLi | 2.5 M, 245.9 mL | [Li]CCCC
reactant | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one | 310.5 g | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
solvent | THF toluene | 1.7 L | C1CCOC1.C1(=CC=CC=C1)C
solvent | toluene | 1.6 L | C1(=CC=CC=C1)C | C7H8
product | (2S,3R,4S,5S,6R)-2-(4-chloro-3-(4-(2-cyclopropoxyethoxy)benzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol | ClC1=C(C=C(C=C1)[C@@]1(O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OC)CC1=CC=C(C=C1)OCCOC1CC1 | C25H31ClO8
